US07105544B2
1-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE
Example 45 was prepared from 1-(4-chlorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.57 (s, 1H), 7.52 (s, 1H), 7.38–7.35 (m, 2H), 7.30–7.21 (m, 4H), 6.93 (d, 1H, J=7.2 Hz), 6.88–6.83 (m, 1H), 3.28 (q, 2H, J=5.6 Hz), 2.95–2.88 (m, 2H), 2.56–2.41 (m, 2H), 2.35–2.26 (m, 3H), 2.07 (s, 1H), 1.96–1.84 (m, 4H), 1.83–1.76 (m, 2H), 1.70–1.53 (m, 10H), 1.24 (d, 6H, J=7.1 Hz); ESMS m/e: 524.3 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclohexanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | 1-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE | ClC1=CC=C(C=C1)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C31H42ClN3O2
